US07553854B2
N-methyl-4-(2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)picolinamide (15 mg, 43 μmol) was mixed with 500 μL of cyclohexylmethanol and cesium carbonate (42 mg, 0.13 mmol). The resulting reaction mixture was stirred at 90° C. for 12 hours. The crude reaction mixture was filtered and purified on prep HPLC and then evaporated in vacuo to give 4-(2-(cyclohexylmethoxy)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (7 mg, 17.6 μmol) as powder. ES/MS m/z 398.1 (MH+).

reactant | N-methyl-4-(2-(methylsulfinyl)benzo[d]thiazol-6-yloxy)picolinamide | 43 μmol, 15 mg | CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)S(=O)C)C=C1)=O | C15H13N3O3S2
reactant | cesium carbonate | 0.13 mmol, 42 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | cyclohexylmethanol | 500 μL | C1(CCCCC1)CO | C7H14O
product | 4-(2-(cyclohexylmethoxy)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 17.6 μmol, 7 mg | C1(CCCCC1)COC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C21H23N3O3S
